US06608048B2
7-Methoxy-4-oxo-1,4-dihydro-quinoline-3-carbonitrile
An amount of 3-methoxy-phenylamine (45.3 g, 0.37 mol) and 2-cyano-3-ethoxy-acrylic acid ethyl ester (62.2 g, 0.37 mol), were heated at 120° C. for 0.5 hours, during which 14.4 mL of ethanol was collected by a Dean-Stark trap. To this was added a solution of biphenyl (333 mL) and phenyl ether (666 mL), and the mixture was heated at 256° C. for 6 hours, during which 22 mL of ethanol was collected by a Dean-Stark trap. The mixture was cooled to room temperature and filtered. The solid was washed with hexane and dried to give a brown solid (46.2 g, 63% yield), m.p 324-325° C.; 1H NMR (DMSO-d6) δ 12.63 (bs, 1H), 8.67 (s, 1H), 8.03 (d, J =9 Hz, 1H), 7.08 (dd, J=9 Hz, J=3 Hz, 1H), 7.01 (dd, J=3 Hz, 1H), 3.88 (s, 3H); HRMS (EI) m/z 223.04793 (M+Na); MS (ES) m/z 201.0 (M+1). Analysis for C11H8N2O2.0.1H2O: Found: C, 65.53; H, 4.09; N, 13.93. Calcd: C, 65.35; H, 4.06; N, 13.86.

reactant | 3-methoxy-phenylamine | 0.37 mol, 45.3 g | COC=1C=C(C=CC1)N | C7H9NO
reactant | 2-cyano-3-ethoxy-acrylic acid ethyl ester | 0.37 mol, 62.2 g | C(C)OC(C(=COCC)C#N)=O | C8H11NO3
solvent | ethanol | 14.4 mL | C(C)O | C2H6O
product | 7-Methoxy-4-oxo-1,4-dihydro-quinoline-3-carbonitrile | 46.2 g, 63% yield | COC1=CC=C2C(C(=CNC2=C1)C#N)=O | C11H8N2O2
